US07511162B2
Finally, in a dry 2-necked, round bottomed flask, fixed with a separatory funnel, containing 10.81 g (60 mmol) of the prepared hexanoyl bromide, and side arm water condenser fixed with a dry receiving flask, is placed 11.03 g (72 mmol) of sodium 2-amino-3-methylpentanoate. The round bottomed flask is placed in an ice bath and the hexanoyl bromide is added drop wise. After addition is completed the mixture is shaken and the ice bath is replaced by a heating mantle. The flask is then heated until no more solution is dropping into the receiving flask. This crude distillate is then further fractionally distilled to yield 2-amino-3-methylpentanoic hexanoic anhydride.

reactant | hexanoyl bromide | 60 mmol, 10.81 g | C(CCCCC)(=O)Br | C6H11BrO
reactant | sodium 2-amino-3-methylpentanoate | 72 mmol, 11.03 g | NC(C(=O)[O-])C(CC)C.[Na+]
product | 2-amino-3-methylpentanoic hexanoic anhydride | C(CCCCC)(=O)OC(C(C(CC)C)N)=O | C12H23NO3
